US04659698
1-(β-D-Xylofuranosyl)-cytosine
One equivalent of cytosine is condensed with one equivalent of 1-O-acetyl-2,3,5-tri-O-benzoyl-α-D-xylofuranose at ambient temperature, in anhydrous acetonitrile, in the presence of tin tetrachloride, SnCl4 (2 equivalents); the compound obtained is purified by chromatography on a silica column and debenzoylated using a methonal solution saturated with ammonia gas. This gives 1-(β-D-xylofuranosyl)-cytosine.

reactant | cytosine | One equivalent | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-α-D-xylofuranose | one equivalent | C(C)(=O)O[C@@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | tin tetrachloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | SnCl4 | 2 equivalents | Cl[Sn](Cl)(Cl)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(β-D-Xylofuranosyl)-cytosine | [C@@H]1([C@H](O)[C@@H](O)[C@H](O1)CO)N1C(=O)N=C(N)C=C1 | C9H13N3O5
